US04795596
The 1-aminomethylnaphthalene-6-sulphonic acid can be converted into 1-formylnaphthalene-6-sulphonic acid in a manner which is known per se by a Sommelet reaction (see, for example, Houben Weyl, Methoden der Organischen Chemie (Methods of Organic Chemistry), 4th edition, volume 7/1 page 198 or Organic Reactions 8, 197 (1954)), that is to say by reaction with hexamethylenetetramine. The 1-formylnaphthalene-6-sulphonic acid is in turn oxidized by processes known for the oxidation of aldehydes to carboxylic acids (see, for example, Houben Weyl loc. cit. volume 8, pages 407-413), for example by oxidation with permanganate (see, for example, Houben Weyl, volume 4 I/b, pages 615-621), to give 1-carboxynaphthalene-6-sulphonic acid.

reactant | 1-aminomethylnaphthalene-6-sulphonic acid | NCC1=CC=CC2=CC(=CC=C12)S(=O)(=O)O | C11H11NO3S
reactant | 1-formylnaphthalene-6-sulphonic acid | C(=O)C1=CC=CC2=CC(=CC=C12)S(=O)(=O)O | C11H8O4S
reactant | hexamethylenetetramine | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | permanganate | [Mn](=O)(=O)(=O)[O-]
product | 1-carboxynaphthalene-6-sulphonic acid | C(=O)(O)C1=CC=CC2=CC(=CC=C12)S(=O)(=O)O | C11H8O5S
